US06897211B2
(1,8-dithia-dibenzo[e,h]azulene-2-yl)-acetonitrile
To an ethanol solution of 2-bromomethyl-1,8-dithia-dibenzo[e,h]azulene (0.5 g, 1,4 mmole in 8 ml of ethanol), sodium cyanide (0.105 g, 2.1 mmole) was added and the reaction mixture was heated under reflux for 8 hours. When all reactant had been reacted (the course of reaction was followed by thin layer chromatography), the solvent was evaporated and the dry residue was extracted in a system diethyl ether/water. 0.4 g of an oily product were isolated.

reactant | 2-bromomethyl-1,8-dithia-dibenzo[e,h]azulene | 1,4 mmole, 8 ml, 0.5 g | BrCC1=CC=2C3=C(SC4=C(C2S1)C=CC=C4)C=CC=C3 | C17H11BrS2
reactant | sodium cyanide | 2.1 mmole, 0.105 g | [C-]#N.[Na+]
solvent | ethanol | C(C)O | C2H6O
product | (1,8-dithia-dibenzo[e,h]azulene-2-yl)-acetonitrile | 0.4 g | S1C(=CC=2C3=C(SC4=C(C12)C=CC=C4)C=CC=C3)CC#N | C18H11NS2
